US08030500B2
1-(2-Cyclopropylpyridin-4-yl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine
To a solution of 1-(3-bromophenyl)-1-(2-cyclopropylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine (97 mg, 0.23 mmol) in DME:EtOH:water (6:3:1) (5 mL) was added pyrimidin-5-ylboronic acid (37.0 mg, 0.30 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium (II) dichloromethane adduct (9.38 mg, 0.01 mmol) and cesium carbonate (225 mg, 0.69 mmol). The vial was sealed and heated in a microwave reactor at 150° C. for 20 minutes. The reaction was diluted with EtOAc and brine, the layers were separated and the aqueous layer was extracted with EtOAc. The organics were combined, dried (Na2SO4), filtered and the solvent was removed under reduced pressure. The crude was purified by preparative HPLC, appropriate fractions combined and the MeOH removed by evaporation. The remaining aqueous phase was basified by addition of sat. aqueous NaHCO3 (pH˜9) and extracted with dichloromethane (×3). The organics were combined, washed once with sat. aqueous NaHCO3, dried (Na2SO4), filtered and evaporated to give 60 mg (62%) of the title compound.

reactant | 1-(3-bromophenyl)-1-(2-cyclopropylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 0.23 mmol, 97 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C1CC1 | C22H17BrFN3
reactant | pyrimidin-5-ylboronic acid | 0.30 mmol, 37.0 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | cesium carbonate | 0.69 mmol, 225 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME EtOH water | 5 mL | COCCOC.CCO.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium (II) dichloromethane adduct | 0.01 mmol, 9.38 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 1-(2-Cyclopropylpyridin-4-yl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 60 mg, 62% | C1(CC1)C1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=CC=C1)C=1C=NC=NC1 | C26H20FN5
